US09388189B2
d) N-(2-Ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide
N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide (631 mg, 1.63 mmol), bis(pinacolato)diboron (538 mg, 2.12 mmol), potassium acetate (480 mg, 4.89 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (104 mg, 0.12 mmol) were suspended in dioxane (16 ml) and stirred overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The organics were washed with water and brine, dried over magnesium sulphate and evaporated under reduced pressure. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 30%, dichloromethane-ethyl acetate) to obtain 309 mg (44% yield) of the title compound. Purity: 93%.

reactant | N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 1.63 mmol, 631 mg | BrC=1C=C(C(=NC1)OCC)NS(=O)(=O)C1=CC(=C(C=C1)O)C | C14H15BrN2O4S
reactant | bis(pinacolato)diboron | 2.12 mmol, 538 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.89 mmol, 480 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | N-(2-Ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 309 mg, 44% yield | C(C)OC1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)O)C)B1OC(C(O1)(C)C)(C)C | C20H27BN2O6S
